US05484942
0.03 g of hydroxybenzotriazole hydrate is added to a solution, cooled to +5° C., of 0.69 g of (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide and 0.68 g of {[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetic acid in 25 cm3 of dry dichloromethane, followed by a solution of 0.5 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 20 cm3 of dry dichloromethane. After stirring for 2 hours at +5° C. and 20 hours at 20° C., the reaction mixture is washed twice with 50 cm3 of distilled water and dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 2.4 cm, height 32 cm), eluting under a nitrogen pressure of 0.8 bar with an ethyl acetate, acetic acid and water mixture (80/20/20 by volume) and collecting fractions of 25 cm3. Fractions 21 to 50 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 8 cm3 of ethyl acetate, the crystals are washed with ethyl acetate and diisopropyl oxide and then dried. 0.45 g of (1RS,4aRS,7aRS)-6-{{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide is obtained in the form of beige crystals; melting point 126° C.

reactant | hydroxybenzotriazole hydrate | 0.03 g | O.OC1=CC=CC=2NN=NC21
reactant | (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide | 0.69 g | C1(=CC=CC=C1)C1(CCS(C2CNCC21)=O)C2=CC=CC=C2 | C19H21NOS
reactant | {[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetic acid | 0.68 g | N1(CCCC1)CC(C)OC1=C(C=CC=C1)CC(=O)O | C15H21NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.5 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | (1RS,4aRS,7aRS)-6-{{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide | 0.45 g | N1(CCCC1)CC(C)OC1=C(C=CC=C1)CC(=O)N1CC2C(C1)C(CCS2=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H40N2O3S
